*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/1.00e+00[uF]/6.3[V]
* Murata P/N :GRM155C70J105KE11
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C70J105KE11 Port1 Port2
C01 Port1 N01 8.59e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.41e-10
R03 N02 N03 8.69e-03
C04 N03 N04 5.52e-06
R04 N03 N04 1.27e+03
C05 N04 N05 2.84e-05
R05 N04 N05 9.72e+00
C06 N05 N06 2.82e-05
R06 N05 N06 9.68e-01
C07 N06 N07 2.15e-05
R07 N06 N07 1.27e-01
C08 N07 N08 1.86e-05
R08 N07 N08 1.53e-02
L09 N08 N09 3.48e-11
R09 N08 N09 1.61e-01
L10 N09 N10 1.32e-10
R10 N09 N10 3.54e-02
C11 N10 N11 1.85e-06
L11 N10 N11 4.48e-11
R11 N10 N11 5.55e-03
C12 N11 N12 1.70e-06
L12 N11 N12 2.36e-11
R12 N11 N12 6.23e-03
C13 N12 Port2 6.58e-12
L13 N12 Port2 4.18e-11
R13 N12 Port2 7.73e+00
.ENDS GRM155C70J105KE11
